US06531491B1
A solution of 1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-benzoimidazole (5.029 g, 20.25 mmol) (see Witten et al., J. Org. Chem., 51, 1891-1894 (1986)) in THF (50 mL) was cooled to −78° C. and added dropwise over 12 min via cannula to a flask containing n-butyllithium (2.5 M in hexanes, 12.2 mL) in THF (30 mL) at −78° C., under argon. After stirring for 25 min at −78° C., the flask was warmed to 0° C. for 10 min, then cooled again to −78° C. This solution was then added via cannula to a second flask containing iodine (25.7 g, 101 mmol) in THF (50 mL) at −78° C. Once the addition was complete (˜5 min), the cooling bath was removed, and stirring was continued for 30 min. The reaction mixture was partitioned between ethyl acetate (500 mL) and water (100 mL). The organic layer was washed with saturated aqueous sodium metabisulfite 2×100 mL) to remove the dark iodine color, dried (MgSO4), and concentrated in vacuo. Purification by flash chromatography (10% to 50% ethyl acetate/hexanes) yielded 4.79 g (63%) of pure 2-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-benzoimidazole as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 7.76-7.72 (m, 1H), 7.54-7.51 (m, 1H), 7.29-7.25 (m, 2H), 5.54 (s, 2H), 3.59 (t, 2H, J=8.1 Hz), 0.92 (t, 2H, J=8.1 Hz), −0.03 (s, 9H). Anal. (C13H19IN2OS) C, H. Calculated: C, 41.71; H, 5.12; L 33.90; N, 7.48. Found: C, 41.90; H, 5.09; L 34.00; N, 7.37.

reactant | 1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-benzoimidazole | 20.25 mmol, 5.029 g | C[Si](CCOCN1C=NC2=C1C=CC=C2)(C)C | C13H20N2OSi
reactant | n-butyllithium | 2.5 M, 12.2 mL | C(CCC)[Li]
reactant | iodine | 101 mmol, 25.7 g | II | I2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-iodo-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-benzoimidazole | 4.79 g, 63% | IC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C13H19IN2OSi
